US04474793
Pivaloyloxymethyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate
A solution of 82 mg of pivaloyloxymethyl 3,3-di(acetylthio)-2-(4-allylsulphinylazetidin-2-on-1-yl)propenoate and 32 mg of 4-toluenesulphonic acid hydrate in 10 ml of dioxane was heated rapidly to reflux and maintained under reflux for 1 hour. The solvent was removed by evaporation and the residue chromatographed on silica gel using ethyl acetate/hexane mixtures as eluant. The product (35 mg, 54%) was obtained as a yellow oil.

reactant | pivaloyloxymethyl 3,3-di(acetylthio)-2-(4-allylsulphinylazetidin-2-on-1-yl)propenoate | 82 mg | C(C)(=O)SC(=C(C(=O)OCOC(C(C)(C)C)=O)N1C(CC1S(=O)CC=C)=O)SC(C)=O | C19H25NO8S3
reactant | 4-toluenesulphonic acid hydrate | 32 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Pivaloyloxymethyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate | 35 mg, 54% | C(C)(=O)SC1=C(N2C(CC2SS1)=O)C(=O)OCOC(C(C)(C)C)=O | C14H17NO6S3
